US06096771
(a) 3-(2-(N-t-Butoxycarbonylamino)ethoxy)-5-fluoro-1,2-benzisoxazole
To a solution of triphenylphosphine (0.87 g) in tetrahydrofuran (20 ml) was added diethyl azodicarboxylate (0.57 g) at 5° C. and the mixture was stirred at the same temperature for 15 minutes. Then 5-fluoro-3-hydroxy-1,2-benzisoxazole (0.46 g) was added and the mixture was stirred at the same temperature for 15 minutes followed by addition of N-t-butoxycarbonyl ethanolamine (0.48 g) and stirring at room temperature for 24 hours. The solvent was evaporated under reduced pressure and the residue was purified by silica gel column chromatography with cyclohexane/ethyl acetate (9/1) as an eluent, to give the title compound (0.53 g, 60%) as a colorless powder.

reactant | triphenylphosphine | 0.87 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 0.57 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | 5-fluoro-3-hydroxy-1,2-benzisoxazole | 0.46 g | FC=1C=CC2=C(C(=NO2)O)C1 | C7H4FNO2
reactant | N-t-butoxycarbonyl ethanolamine | 0.48 g | C(C)(C)(C)OC(=O)NCCO | C7H15NO3
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 3-(2-(N-t-Butoxycarbonylamino)ethoxy)-5-fluoro-1,2-benzisoxazole | 0.53 g, 60% | C(C)(C)(C)OC(=O)NCCOC1=NOC2=C1C=C(C=C2)F | C14H17FN2O4
